US08110573B2
22C. Synthesis of 1-(3,4-diaminobenzyl)-4-methylpiperazine
1-(3,4-dinitrobenzyl)-4-methylpiperazine (1 g) was dissolved in DMF:MeOH (1:1, 20 ml) and agitated with 10% Pd/C (50 mg) under an atmosphere of H2 for 6 hours. The mixture was then filtered and evaporated to give a dark solid which was used immediately without any further purification.

reactant | 1-(3,4-dinitrobenzyl)-4-methylpiperazine | 1 g | [N+](=O)([O-])C=1C=C(CN2CCN(CC2)C)C=CC1[N+](=O)[O-] | C12H16N4O4
solvent | DMF MeOH | 20 ml | CN(C)C=O.CO
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 1-(3,4-diaminobenzyl)-4-methylpiperazine | NC=1C=C(CN2CCN(CC2)C)C=CC1N | C12H20N4
